US07902394B2
(a) (2-Chloro-5-iodophenyl)methanol
A solution of 2-chloro-5-iodobenzoic acid (28 g, 99 mmoles) and toluene (198 mL) was cooled to 0° C. A 1M diisobutyl aluminium hydride (DIBAL) solution in toluene 208 mL, 208 mmol) solution was added drop wise over 20 minutes. The solution was allowed to slowly warm to rt. After 16 h the solution was cooled to 0° C., MeOH and 1M HCl was slowly added (exothermic reaction). The solution became clumpy and was filtered and the clumps washed with EtOAc. The organic phase was then isolated and the aqueous layer washed with EtOAc. The combined organic extracts were then washed with brine, dried (Na2SO4), and concentrated. The product was purified by Biotage chromatography (0%-100% EtOAc/Hexanes) to afford 9.01 g of product as a solid (34%). 1H NMR (400 MHz, chloroform-d) δ ppm 7.85 (d, J=2.02 Hz, 1 H) 7.55 (dd, J=8.34, 2.27 Hz, 1 H) 7.09 (d, J=8.34 Hz, 1 H) 4.74 (s, 2 H) 2.25 (s, 1 H).

reactant | 2-chloro-5-iodobenzoic acid | 99 mmoles, 28 g | ClC1=C(C(=O)O)C=C(C=C1)I | C7H4ClIO2
reactant | toluene | 198 mL | C1(=CC=CC=C1)C | C7H8
reactant | diisobutyl aluminium hydride | 1M | [H-].C(C(C)C)[Al+]CC(C)C
reactant | toluene | 208 mmol, 208 mL | C1(=CC=CC=C1)C | C7H8
reactant | HCl | 1M | Cl | ClH
solvent | MeOH | CO | CH4O
product | (2-Chloro-5-iodophenyl)methanol | 9.01 g, 34% | ClC1=C(C=C(C=C1)I)CO | C7H6ClIO
